US07384906B2
Under an atmosphere of N2, a 1.6 M solution of MeLi in Et2O (500 ml, 800 mmol) was added during 105 min. dropwise with stirring between 0-10° C. to a solution of 2,4-dimethylpent-2-enoic acid (41.0 g, 320 mmol) in Et2O (1.6 L). The reaction mixture was heated to reflux for 1 h, and then between 5-15° C. 5 N HCl (200 ml) was added dropwise. The organic layer was separated, the aqueous one extracted with Et2O (200 ml). The combined organic solutions were washed with water (200 ml) and brine (100 ml), dried (Na2SO4) and concentrated in a rotary evaporator to afford crude 3,5-dimethylhex-3-en-2-one, which was taken up in Et2O (160 ml). Under N2 at room temp., this solution was added dropwise with stirring to a suspension of LAH (3.34 g, 880 mmol) in Et2O (320 ml) during 1 h. The reaction mixture was refluxed for 2 h, and then quenched between 0-5° C. by addition of water (10 ml) and brine (20 ml). The organic layer was separated and the aqueous one extracted with Et2O (100 ml). The combined ethereal extracts were washed with water (100 ml) and brine (50 ml), dried (Na2SO4), and concentrated under reduced pressure. Silica-gel FC (pentane/Et2O, 4:1, Rf=0.40) of the resulting residue provided 34.7 g (85% over 2 steps) of 3,5-dimethylhex-3-en-2-ol.

reactant | MeLi | [Li]C
reactant | 2,4-dimethylpent-2-enoic acid | 320 mmol, 41.0 g | CC(C(=O)O)=CC(C)C | C7H12O2
reactant | HCl | 5 N, 200 ml | Cl | ClH
solvent | Et2O | 1.6 L | CCOCC | C4H10O
solvent | Et2O | 800 mmol, 500 ml | CCOCC | C4H10O
product | 3,5-dimethylhex-3-en-2-one | CC(C(C)=O)=CC(C)C | C8H14O
